US07589232B2
5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The titled compound was prepared following the procedure D using 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid and N-methyl-D-glucamine as a white powder (47%). M− (ESI): 509.8. M+ (ESI): 512.4. HPLC, Rt: 4.94 min (Purity: 98.7%).

reactant | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC=C(C=C2)OC)=O)C=C1 | C30H22ClNO5
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC=C(C=C2)OC)=O)C=C1 | InChI=1S/C30H22ClNO5.C7H17NO5/c1-37-26-15-10-23(11-16-26)29(34)32(25-14-17-28(33)27(18-25)30(35)36)19-22-6-4-20(5-7-22)2-3-21-8-12-24(31)13-9-21;1-8-2-4(10)6(12)7(13)5(11)3-9/h4-18,33H,19H2,1H3,(H,35,36);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
